US07511144B2
To a solution of 7.23 g (29.6 mmol) of 4-chloromethyl-2-methylquinoline hydrochloride and 5.61 g (32.6 mmol) of 4-methylsulfonylphenol in ethanol (26 mL) was added 17.1 mL (68.1 mmol) of 4 N aqueous sodium hydroxide, followed by heating under reflux for 5 hours. After standing to cool, water (150 mL) and 4 N aqueous sodium hydroxide (2.5 mL) were added and stirred for 20 minutes at room temperature. The precipitates were collected by filtration, washed thoroughly with water and hexane, and then dried at 40° C. in vacuo in the presence of phosphorus pentoxide to give 9.06 g (yield 93.5%) of 4-(4-methanesulfonylphenoxymethyl)-2-methylquinoline (VI-1). Its physical properties are shown below.

reactant | 4-chloromethyl-2-methylquinoline hydrochloride | 29.6 mmol, 7.23 g | Cl.ClCC1=CC(=NC2=CC=CC=C12)C
reactant | 4-methylsulfonylphenol | 32.6 mmol, 5.61 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | sodium hydroxide | 68.1 mmol, 4 N, 17.1 mL | [OH-].[Na+]
reactant | water | 150 mL | O | H2O
reactant | sodium hydroxide | 4 N, 2.5 mL | [OH-].[Na+]
solvent | ethanol | 26 mL | C(C)O | C2H6O
product | 4-(4-methanesulfonylphenoxymethyl)-2-methylquinoline | 9.06 g, yield 93.5% | CS(=O)(=O)C1=CC=C(OCC2=CC(=NC3=CC=CC=C23)C)C=C1 | C18H17NO3S
